US04732904
4-Methoxybenzyl(2-pyridyl) carbinol (for A-077)
Ketone starting material for A-077 was prepared from picolinic acid and 4-methoxybenzaldehyde. To a solution of 50 g. (0.37 moles) of 4-methoxybenzaldehyde and 50 ml. p-cymene (heated to dissolve) in a 3-neck flask with reflux condenser and refluxed until boiling, 10 g. (0.08 moles) picolinic acid was added dropwise and then refluxed for three hours. The solution changed in color from reddish to brown at the end. The solution was cooled and extracted in a separatory funnel with 2 N HCl (twice with 50 ml.). The above acid layer was washed twice with 100 ml. diethyl ether. The ether layer was discarded. The acid layer was basified with ice cold concentrated ammonium hydroxide at 0° C. The basic layer was extracted with diethyl ether (3×100 ml.) until clear. The ether washings were collected and dried over anhydrous sodium sulfate. The filtered ethereal solutions were evaporated (under roto-vacuum) at room temperature until an oil formed. The oil was dissolved in minimal ethanol to solubilize, and hot water dropwise was added until turbidity was produced and then disappeared on further heating. On cooling, a cloudy layer formed an oil which was removed by hand aspiration rapidly because it precipitated quickly. The 4-methoxybenzyl(2-pyridyl) carbinol oil was recrystallized from ethanol-water (80:20) as a white powder, 65% yield, mp 110°-112° C. Calc. for C14H13NO2 : C, 74.01; H, 5.73; N, 6.16. Found: C, 74.09; H, 6.01; N, 6.04.

reactant | picolinic acid | N1=C(C=CC=C1)C(=O)O | C6H5NO2
reactant | 4-methoxybenzaldehyde | COC1=CC=C(C=O)C=C1 | C8H8O2
reactant | 4-methoxybenzaldehyde | 0.37 moles | COC1=CC=C(C=O)C=C1 | C8H8O2
reactant | p-cymene | CC=1C=CC(=CC1)C(C)C | C10H14
reactant | picolinic acid | 0.08 moles | N1=C(C=CC=C1)C(=O)O | C6H5NO2
reactant | water | O | H2O
solvent | ethanol | C(C)O | C2H6O
product | 4-Methoxybenzyl(2-pyridyl) carbinol | 65% yield | COC1=CC=C(CC(O)C2=NC=CC=C2)C=C1 | C14H15NO2
